Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Ace Inhibitors / Aspirin / Rifaximin / Tramadol / 
Plavix / morphine / Statins-Hmg-Coa Reductase Inhibitors / 
Effexor XR
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old female, history of CAD (MI ___ s/p
PCIx2 to ramus intermedius, TTE ___, pAF (on Coumadin),
moderate AS, HTN, anemia, dementia, GERD, and hx breast cancer
(s/p R mastectomy with XRT) who presents with chest pain. 
Patient
reports that symptoms began 2 or 3 days ago. She reports 8 out 
of
10 substernal chest "pressure." Mild dyspnea with cough. No
hemoptysis. Denies fever, chills, nausea, vomiting, change in
bowel or bladder function, change in vision or hearing, 
bruising,
adenopathy, new rash or lesion.

She is somewhat difficult to get a clear history from w/r/t her
pain. When it initially started about 48 hours ago, it awoke her
up out of her sleep. She doesn't recall anything that improved 
or
made it worse, but since then it has been rather episodic
throughout the day. She has felt generally "low energy" and thus
has not been moving about all that much, but when she has 
exerted
herself she does not think that brought about the pain or made 
it
any worse. She does think that she has felt generally weaker
while exerting herself over the last week or so.

In the ED initial vitals were: 

97.3 56 155/65 16 97% RA 
 
Labs/studies notable for:

___: 35.8  PTT: 43.3  INR: 3.3  

5.1 > 12.1/37.1 < 230 
  
ALT: 36 AP: 85 Tbili: 0.4 Alb: 4.2 
AST: 45 

CK: 295  MB: 8  Trop-T: 0.02 

135  97  29   
-------------< 82 
4.2  23  1.2  

UA negative

Trop 0.02 --> 0.01

 
Past Medical History:
HYPONATREMIA  
 ATRIAL FIBRILLATION on Coumadin  
 BREAST CANCER TWICE IN RIGHT BREAST  
 lumpectomy and xrt s/p mastectomy ___  
 CORONARY ARTERY DISEASE  
 s/p ramus stent ___, negative exercise echo ___  
 CORONARY ARTERY DISEASE  
 ___ cath 3-v disease with PCTA ramus of circ  
 DEPRESSION  
 GASTROESOPHAGEAL REFLUX  
 HYPERTENSION  
 OSTEOARTHRITIS  
 OSTEOPOROSIS  
 ANXIETY  
 MDD WITH PSYCHOTIC FEATURES  
 GAD  
 CATARACT  
 AORTIC SCLEROSIS  

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: brother with ___ (in ___
Mother died of AD at age ___
Father died of MI age ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
VS:  ___ 0200 Temp: 98.0 PO BP: 150/63 L Lying HR: 58 RR: 
18
O2 sat: 99% O2 delivery: Ra 
GENERAL: Cachectic elderly woman, lying comfortably in bed, NAD
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: No JVD.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. ___, late peaking cresc/decresc
murmur best heart at LUSB, radiating to carotids with delayed
carotid upstroke.   
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM
=====================================
Temp: 97.7 (Tm 98.8), BP: 159/72 (113-159/53-72), HR: 69
(52-69), RR: 18 (___), O2 sat: 97% (96-98), O2 delivery: Ra,
Wt: 92.15 lb/41.8 kg
GENERAL: Cachectic elderly woman, lying comfortably in bed, NAD
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: No JVD.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. ___, late peaking cresc/decresc
murmur best heart at LUSB, radiating to carotids with delayed
carotid upstroke.   
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
ADMISSION LABS
=====================
___ 02:10PM   cTropnT-<0.01
___ 12:29PM URINE  HOURS-RANDOM
___ 12:29PM URINE  UHOLD-HOLD
___ 12:29PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:29PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 08:15AM   GLUCOSE-82 UREA N-29* CREAT-1.2* SODIUM-135 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-23 ANION GAP-15
___ 08:15AM   estGFR-Using this
___ 08:15AM   ALT(SGPT)-36 AST(SGOT)-45* CK(CPK)-295* ALK 
PHOS-85 TOT BILI-0.4
___ 08:15AM   LIPASE-46
___ 08:15AM   CK-MB-8 cTropnT-0.02*
___ 08:15AM   ALBUMIN-4.2 CALCIUM-9.5 PHOSPHATE-3.0 
MAGNESIUM-2.1
___ 08:15AM   WBC-5.1 RBC-3.90 HGB-12.1 HCT-37.1 MCV-95 
MCH-31.0 MCHC-32.6 RDW-14.0 RDWSD-49.2*
___ 08:15AM   NEUTS-59.3 ___ MONOS-12.4 EOS-1.6 
BASOS-1.2* IM ___ AbsNeut-3.02 AbsLymp-1.29 AbsMono-0.63 
AbsEos-0.08 AbsBaso-0.06
___ 08:15AM   PLT COUNT-230
___ 08:15AM   PLT COUNT-230

PERTINENT STUDIES
========================
CARDIAC PERFUSION PHARM ___
Normal myocardial perfusion exam. The ejection fraction is 70%.

CXR ___
No acute cardiopulmonary abnormality.

TTE ___
Vigorous left ventricular systolic function. Severe aortic 
stenosis with mild aortic regurgitation. Mild mitral and 
tricuspid regurgitation. Borderline pulmonary hypertension.

STRESS TEST ___
Non-anginal type symptoms in the absence of significant ST 
segment changes. Resting systolic hypertension with an 
appropriate 
hemodynamic response to vasodilator stress. Nuclear report sent 
separately. 

DISCHARGE LABS
========================
___ 08:40AM BLOOD WBC-5.1 RBC-3.58* Hgb-11.2 Hct-34.9 
MCV-98 MCH-31.3 MCHC-32.1 RDW-14.2 RDWSD-51.8* Plt ___
___ 07:33PM BLOOD ___ PTT-40.6* ___
___ 08:40AM BLOOD Glucose-75 UreaN-28* Creat-1.1 Na-137 
K-4.3 Cl-101 HCO3-23 AnGap-13
___ 08:40AM BLOOD CK(CPK)-191
___ 08:40AM BLOOD CRP-7.3*
 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
___ year old female, history of CAD (MI ___ s/p PCIx2 to ramus
intermedius, TTE ___, pAF (on Coumadin), moderate AS, HTN,
anemia, dementia, GERD, and hx breast cancer (s/p R mastectomy
with XRT) who presents with chest pain, possibly anginal vs.
symptomatic severe AS vs. non-cardiac.

CORONARIES: Diffuse 3VD
PUMP: Preserved EF (70%)
RHYTHM: pAF

====================
ACTIVE ISSUES
====================

#Chest pain
#CAD (MI ___ s/p PCIx2 to ramus intermedius, last cath ___
with 3VD, declining intervention)
Suspect that some of her chest pain is anginal in nature, though
not entirely clear from her history. Low concern for ACS given 
very mild trop elevation which was downtrending and no ischemic 
EKG changes. Pmibi was reassuring. Notably long acting nitrates 
have resulted in HA in the past. Beta blocker not uptitrated due 
to resting bradycardia. Also, she recently had two episodic 
visits for diffuse muscle aches and fatigue, with labs showing 
mildly elevated CK; statin was discontinued in this setting. ASA 
was also held on her last admission due to concern for GIB. Her 
symptoms were resolved on the day of discharge.

#pAF: On warfarin. INR on admission 3.3 so Warfarin held on 
admission day but resumed on ___. Patient was in sinus this 
admission. Continued Amiodarone but Carvedilol 3.125 BID held 
due to resting bradycardia. INR on discharge was 2.3.

#Moderate-Severe AS: AS valve area of 1cm, with mean gradient 
36.
This is slightly worsened in the past year with prior area
measured at 1.1cm with mean gradient in the low ___. Aortic 
stenosis will be discussed further at outpatient visit with 
___.

#Diffuse muscle aches: Given vague nature of symptoms, certainly 
possible that her pain was related to neither AS nor ischemic 
heart disease. Interestingly, her CK and AST were both elevated 
on admission likely indicating some skeletal muscle breakdown. 
Statin induced myopathy is certainly possible so continued to 
hold her Atorvastatin, though other myopathies should be 
considered. CRP mildly elevated and ESR pending on discharge. 
TSH also checked which was normal. 

#HTN: Holding carvedilol but continued amlodipine as above.

#Dementia
#Anxiety:
Continued home wellbutrin and mirtazapine.

#CKD: Appeared to be at baseline Cr from most recent checks. Cr 
on discharge was 1.1.

#H/o breast CA s/p R mastectomy with XRT

====================
TRANSITIONAL ISSUES:
====================
- New Meds: None
- Stopped/Held Meds: Carvedilol 3.125mg BID
- Changed Meds: None
- Discharge weight: 41.8 kg (92.15 lb) 
- Discharge creatinine: 1.1

[] Held carvedilol in the setting of resting bradycardia. Please 
consider restarting if heart rates allow.
[] Warfarin held on ___ because patient was supratherapeutic 
but resumed her home dose prior to discharge

# CONTACT: HCP: ___ (Nephew)
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
2. Amiodarone 100 mg PO DAILY 
3. amLODIPine 2.5 mg PO DAILY 
4. Carvedilol 3.125 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID 
7. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
8. Mirtazapine 7.5 mg PO QHS 
9. Polyethylene Glycol 17 g PO DAILY 
10. Senna 17.2 mg PO QHS 
11. Warfarin 2 mg PO 4X/WEEK (___) 
12. Warfarin 1.5 mg PO 3X/WEEK (___) 
13. Azopt (brinzolamide) 1 % ophthalmic (eye) TID 
14. BuPROPion 100 mg PO BID 
15. Chlorpheniramine-Hydrocodone 5 mL PO Q6H:PRN cough 
16. Citracal + D Petites (calcium citrate-vitamin D3) 200 mg 
calcium -250 unit oral BID 
17. Furosemide 20 mg PO DAILY 
18. Mag-Al Plus (alum-mag hydroxide-simeth) 200-200-20 mg/5 mL 
oral TID 
19. melatonin 1 mg oral QHS 
20. Sucralfate 0.5 gm PO TID:PRN stomach upset 
21. trimethobenzamide 300 mg oral Q8H:PRN nausea 
22. Vitamin D 1000 UNIT PO DAILY 
23. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Warfarin 1.5 mg PO DAILY16  
2.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
3.  Amiodarone 100 mg PO DAILY  
4.  amLODIPine 2.5 mg PO DAILY  
5.  Azopt (brinzolamide) 1 % ophthalmic (eye) TID  
6.  BuPROPion 100 mg PO BID  
7.  Chlorpheniramine-Hydrocodone 5 mL PO Q6H:PRN cough  
8.  Citracal + D Petites (calcium citrate-vitamin D3) 200 mg 
calcium -250 unit oral BID  
9.  Docusate Sodium 100 mg PO BID  
10.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID  
11.  Furosemide 20 mg PO DAILY  
12.  Mag-Al Plus (alum-mag hydroxide-simeth) 200-200-20 mg/5 mL 
oral TID  
13.  melatonin 1 mg oral QHS  
14.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
15.  Mirtazapine 7.5 mg PO QHS  
16.  Pantoprazole 40 mg PO Q24H  
17.  Polyethylene Glycol 17 g PO DAILY  
18.  Senna 17.2 mg PO QHS  
19.  Sucralfate 0.5 gm PO TID:PRN stomach upset  
20.  trimethobenzamide 300 mg oral Q8H:PRN nausea  
21.  Vitamin D 1000 UNIT PO DAILY  
22.  Warfarin 2 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
non-coronary chest pain

SECONDARY DIAGNOSIS
====================
coronary artery disease
aortic stenosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for chest pain and fatigue

What was done for me while I was in the hospital?  
- You underwent a stress test which was normal.
- Your medicines were changed to improve your symptoms. 

What should I do when I leave the hospital?  
- Please continue to take your medicines as prescribed and 
follow up with your outpatient providers.

We wish you the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___